US07960562B2
1.58 M n-butyllithium/hexane solution (13.8 mL) was dropwise added to an anhydrous THF (30 mL) solution of diisopropylamine (3.08 mL) cooled to −78° C. under Ar gas atmosphere, thereby preparing a LDA solution. This solution was warmed up to −20° C., and then again cooled to −78° C., and thereafter 3-fluoroacetophenone (2.07 g) was dropwise added thereto, followed by stirring at −78° C. for 30 minutes. Then, 3-(chlorosulfonyl)benzoyl chloride (2.44 g) was dropwise added, followed by stirring for 15 minutes. Separately, 2-hydroxy-2-methylpropanimidamide hydrochloride (3.05 g) was added to a THF (40 mL) solution of sodium hydride (60% purity, 0.88 g) at room temperature, followed by stirring for 30 minutes and cooling to 0° C. Then, the previous solution was added thereto all at once, followed by stirring at room temperature for 1 hour. An aqueous saturated ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with water, dried, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=50/1) to obtain N-({3-[3-(3-fluorophenyl)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide (2.17 g).

reactant | n-butyllithium hexane | 1.58 M, 13.8 mL | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 3.08 mL | C(C)(C)NC(C)C | C6H15N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-fluoroacetophenone | 2.07 g | CC(=O)C1=CC(=CC=C1)F | C8H7FO
reactant | 3-(chlorosulfonyl)benzoyl chloride | 2.44 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 2-hydroxy-2-methylpropanimidamide hydrochloride | 3.05 g | Cl.OC(C(N)=N)(C)C
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-({3-[3-(3-fluorophenyl)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide | 2.17 g | FC=1C=C(C=CC1)C(CC(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C(C)(C)O)=N)=O | C19H19FN2O5S
